US07534894B2
Step 2: ({4′-[({[1-phenyl-5-propyl-1H-pyrazol-4-yl]carbonyl}amino)methyl]-[1,1′-biphenyl]-4-yl}oxy)acetic acid.
A mixture of methyl({4′-[({[1-phenyl-5-propyl-1H-pyrazol-4-yl]carbonyl}amino)methyl][1,1′-biphenyl]-4-yl}oxy)acetate (250 mg, 0.517 mmol), prepared in the previous step, and 1 N NaOH (620 μL, 0.620 mmol) in 40 mL of THF and 20 mL of water was stirred at room temperature for 19 h (overnight). The reaction was acidified by the addition of 620 μL of 1 N HCl and then concentrated under reduced pressure to remove the THF. The solid that formed was collected by filtration and dried under reduced pressure to give the title compound (214 mg, 87%) as a white solid, mp 190-192° C. Elemental Analysis for C28H27N3O4+0.43 H2O. Calc'd: C, 70.46; H, 5.88; N, 8.80. Found: C, 70.37; H, 5.98; N, 8.44

reactant | methyl({4′-[({[1-phenyl-5-propyl-1H-pyrazol-4-yl]carbonyl}amino)methyl][1,1′-biphenyl]-4-yl}oxy)acetate | 0.517 mmol, 250 mg | COC(COC1=CC=C(C=C1)C1=CC=C(C=C1)CNC(=O)C=1C=NN(C1CCC)C1=CC=CC=C1)=O | C29H29N3O4
reactant | NaOH | 0.620 mmol, 1 N, 620 μL | [OH-].[Na+]
reactant | HCl | 1 N, 620 μL | Cl | ClH
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | water | 20 mL | O | H2O
product | ({4′-[({[1-phenyl-5-propyl-1H-pyrazol-4-yl]carbonyl}amino)methyl]-[1,1′-biphenyl]-4-yl}oxy)acetic acid | 214 mg, 87% | C1(=CC=CC=C1)N1N=CC(=C1CCC)C(=O)NCC1=CC=C(C=C1)C1=CC=C(C=C1)OCC(=O)O | C28H27N3O4
